* C:\Users\phili\Documents\3rd_year\Edesign_344\Assignment3\E344_A3_heart.asc
V1 Vheartsensor 0 PWL file=HeartSensorPWL.csv
V4 N001 0 9
R_Sense 9V N001 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
XU6 BPF_out N003 5V 0 1st_out TL081
R1 1st_out N003 50k
XU7 2nd_out N005 5V 0 Vheartpulsesout TLC2272
R2 P001 N005 100
R3 Vheartpulsesout N005 50k
R4 5V P001 5k
R5 P001 0 4.301k
R6 N002 N004 1.001k
R7 2nd_out N004 10k
R8 5V N002 5k
R9 N002 0 4.5k
C3 0 BPF_out 100µ
C4 2nd_out 0 1.701m
C5 BPF_out P002 200µ
R10 BPF_out 0 1k
R11 P002 Vheartsensor 500
R12 0 N003 300
C6 1st_out 0 2.5m
R13 5V N006 50
XU8 1st_out N004 N006 0 2nd_out TL081
.tran 0 {transtop} 0 {timestep}
.include A3heartcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vheartsensor" to your \n               conditioning circuit's input\n  * Connect "Vheartpulsesout" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nPD Kirby,  21739064\nDC = 1.9 V\nHeart rate pk = 155.5mV\n=============================
* ==========================================================================================\nHeart signal conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
.lib LM78XX_RS.lib
.backanno
.end
