* C:\Users\phili\Documents\3rd_year\Edesign_344\Assignment3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
R1 N006 Vtempsensor 1k
XU5 N007 N005 5V 0 TL081_Out TL081
R2 N001 N005 4k
R3 TL081_Out N005 60k
R4 5V N006 1.15k
R5 N006 0 2k
R6 5V N001 3k
R7 N001 0 3k
XU6 TL081_Out N004 5V 0 Vtempoutadc TLC2272
R8 N002 N004 5k
R9 Vtempoutadc N004 17k
R10 5V N002 3k
R11 N002 0 3.2k
C3 N007 0 64µ
R12 N007 N006 200
C1 5V 0 0.1µ
C4 9V 0 0.33µ
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nPD Kirby 21739064\nV(0degV) = 660 mV\ndeltaV/degV = 25 mV\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
.lib LM78XX_RS.lib
.backanno
.end
