* C:\Users\phili\Documents\3rd year\Edesign_344\voltage_regulation.asc
L1 5V_switch_regulator N004 47µ
D1 0 N004 1N5822
R1 N003 N002 1k
R2 5V_switch_regulator N003 17.5k
V1 N001 0 SINE(9 0 50k)
XU1 N001 0 5V_linear_regulator LM7805
C1 5V_linear_regulator 0 10µ
C2 N001 0 10µ
V2 N002 0 SINE(9 0 50k)
XU2 N003 0 N002 0 N004 0 LM2595_ADJ_TRANS
.model D D
.lib C:\Users\phili\Documents\LTspiceXVII\lib\cmp\standard.dio
.include TL081.lib
.include LM2595_ADJ_TRANS.LIB
.include TLC2272.LIB
.include LM78XX_RS.lib
.include diode.lib
.tran 0 2m 0 1m
.lib C:\Users\phili\Documents\3rd year\Edesign_344\LM78XX_RS.lib
.lib C:\Users\phili\Documents\3rd year\Edesign_344\LM2595_ADJ_TRANS.LIB
.backanno
.end
